US07655670B2
1-(hydroxyethyl)-5-(cyclooctyl-methyl)-spiro[indoline-3,4′-piperidin]-2-one (Compound #20)
1-(methylcarbonyloxy-ethyl)-5(cyclooctyl-methyl)-spiro[indoline-3,4′-piperidin]-2-one (0.012 g, 0.028 mmol) was dissolved in methanol (1.5 mL). To the reaction mixture was then added at room temperature a 25% solution of sodium methoxide in methanol (50 μL) and the reaction mixture was stirred for 30 minutes. The solvent was evaporated in vacuo to yield an oil which was then partitioned with aqueous 0.1N HCl and dichloromethane. The organic layer was washed with brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield a crude oil. The crude oil was purified via flash chromatography (35% ethyl acetate/hexanes) to yield the title compound as an oil.

reactant | 1-(methylcarbonyloxy-ethyl)-5(cyclooctyl-methyl)-spiro[indoline-3,4′-piperidin]-2-one | 0.028 mmol, 0.012 g | CC(=O)OCCN1C(C2(CCNCC2)C2=CC(=CC=C12)CC1CCCCCCC1)=O | C25H36N2O3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 1.5 mL | CO | CH4O
solvent | methanol | 50 μL | CO | CH4O
product | 1-(hydroxyethyl)-5-(cyclooctyl-methyl)-spiro[indoline-3,4′-piperidin]-2-one | OCCN1C(C2(CCNCC2)C2=CC(=CC=C12)CC1CCCCCCC1)=O | C23H34N2O2
